US07737149B2
Water (0.2 mL), paraformaldehyde (0.470 g, 15.64 mmol) and acetic acid (0.895 mL, 15.64 mmol) were added to a stirred suspension of 4-(4-(methoxycarbonyl)phenyl)piperidinium chloride (1 g, 3.91 mmol) in THF (20 mL) under nitrogen. Sodium cyanoborohydride (0.369 g, 5.87 mmol) was added portionwise over a period of 10 mins. The resulting mixture was stirred at 60° C. for 19 h. The reaction mixture was evaporated to dryness and mixed with water (20 mL) and 1M HCl (5 mL). The solution was washed with EtOAc (2×15 mL), basified with K2CO3 and extracted with EtOAc (2×15 mL). The organic layer was washed with saturated brine and dried over MgSO4, filtered and evaporated to afford pure methyl 4-(1-methylpiperidin-4-yl)benzoate (0.459 g, 50.4%)as a colourless oil which crystallised on standing.

reactant | paraformaldehyde | 15.64 mmol, 0.470 g | C=O | CH2O
reactant | acetic acid | 15.64 mmol, 0.895 mL | C(C)(=O)O | C2H4O2
reactant | 4-(4-(methoxycarbonyl)phenyl)piperidinium chloride | 3.91 mmol, 1 g | [Cl-].COC(=O)C1=CC=C(C=C1)C1CC[NH2+]CC1
reactant | Sodium cyanoborohydride | 5.87 mmol, 0.369 g | C(#N)[BH3-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | Water | 0.2 mL | O | H2O
product | methyl 4-(1-methylpiperidin-4-yl)benzoate | 0.459 g, 50.4% | CN1CCC(CC1)C1=CC=C(C(=O)OC)C=C1 | C14H19NO2
